US06448281B1
(S)-1-Methoxycarbonyl-2-[4-(4-methoxycarbonyl-[1,2,3]triazol-1yl)-phenyl]-ethyl Ammonium Chloride
4-Azido-L-phenylalanine hydrochloride (0.242 g, 1 mmol) was dissolved in dry DMF (1 mL) and methyl propiolate (0.420 g, 5 mmol) was added. The suspension was stirred 24 h at 45 ° C. After cooling to room temperature, the solid was filtered, washed with EtOAc and dried (175 mg). The material was suspended in MeOH (15 mL) and thionyl chloride (0.5 mL) was added drop-wise. The mixture was refluxed for 3 h, cooled and concentrated under reduced pressure. The residue was triturated with ether to give the title compound as a white solid (175 mg, 53% yield).

reactant | 4-Azido-L-phenylalanine hydrochloride | 1 mmol, 0.242 g | Cl.N(=[N+]=[N-])C1=CC=C(C[C@H](N)C(=O)O)C=C1
reactant | methyl propiolate | 5 mmol, 0.420 g | C(C#C)(=O)OC | C4H4O2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-1-Methoxycarbonyl-2-[4-(4-methoxycarbonyl-[1,2,3]triazol-1yl)-phenyl]-ethyl Ammonium Chloride | 175 mg, 53% yield | [Cl-].COC(=O)[C@H](CC1=CC=C(C=C1)N1N=NC(=C1)C(=O)OC)[NH3+] | InChI=1S/C14H16N4O4.ClH/c1-21-13(19)11(15)7-9-3-5-10(6-4-9)18-8-12(16-17-18)14(20)22-2;/h3-6,8,11H,7,15H2,1-2H3;1H/t11-;/m0./s1
